US04578465
1-(2-Methoxyphenyl)-4-[2-(2-aminobenzoyl)aminoethyl]piperazine (3.54 g) and urea (1.2 g) were dissolved in dimethylformamide (20 ml) and the resulting solution was heated at an external temperature of 140° to 180° C. for 5 to 8 hours. After completion of the reaction, water (200 ml) was added to the reaction mixture and the resulting crystal was filtered off. Upon recrystallization from dioxane, 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]2,4-(1H,3H)-quinazolinedione (3.5 g) was obtained as needles. Its physicochemical data was the same as that of the product obtained in (a).

reactant | 1-(2-Methoxyphenyl)-4-[2-(2-aminobenzoyl)aminoethyl]piperazine | 3.54 g | COC1=C(C=CC=C1)N1CCN(CC1)CCNC(C1=C(C=CC=C1)N)=O | C20H26N4O2
reactant | urea | 1.2 g | NC(=O)N | CH4N2O
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]2,4-(1H,3H)-quinazolinedione | 3.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O | C21H24N4O3
